R1 ( net26 net2)  R=9.4E6
T2 ( net2 net25 vdd! vdd!)  pfet  L=8.00E-6 W=4.79E-6
T3 ( net20 net25 vdd! vdd!)  pfet  L=8.00E-6 W=4.79E-6
T4 ( net6 net2 net20 vdd!)  pfet  L=8.00E-6 W=4.79E-6
R5 (net11 net1) R=9.4E3
T6 (net5 net19 net19 0) nfet L=3.10E-6 W=0.77E-6
R7 ( vdd! net23)  R=7.8E2
T8 ( net23 net23 net22 0)  nfet  L=7.46E-6 W=7.72E-6
T9 ( net22 net10 0 0)  nfet  L=7.46E-6 W=7.72E-6
T10 ( net10 net10 0 0)  nfet  L=7.46E-6 W=7.72E-6
T11 ( net14 net23 net10 0)  nfet  L=7.46E-6 W=7.72E-6
R12 (net3 0) R=6.8E0
R13 (net4 0) R=9.8E0
C14 (net9 net18) C=4.7E-6
T15 (net17 net6 net6 0) pfet L=4.82E-6 W=4.72E-6
C16 (net1 net26) C=7.9E-11
T17 (net14 net5 net5 0) nfet L=4.71E-6 W=8.65E-6
T18 (net27 net13 net13 0) nfet L=7.53E-6 W=6.07E-6
R19 (0 net9) R=3.4E5
T20 (net8 net6 net6 0) nfet L=4.03E-6 W=5.43E-6
R21 (net15 net21) R=6.9E2
T22 (net11 0 0 0) nfet L=3.31E-6 W=3.08E-6
T23 (net26 vdd! vdd! 0) nfet L=7.59E-6 W=6.67E-6

