T1 (net9 net1 net1 0) pfet L=6.56E-6 W=0.47E-6
R2 ( net7 net8)  R=2.3E3
T3 ( net8 net6 0 0)  nfet  L=3.57E-6 W=4.27E-6
T4 ( net10 net6 0 0)  nfet  L=3.57E-6 W=4.27E-6
T5 ( net1 net8 net10 0)  nfet  L=3.57E-6 W=4.27E-6
T6 (net5 net7 net7 0) nfet L=5.40E-6 W=7.15E-6
R7 (net9 0) R=1.1E3
C8 (net2 net1) C=2.3E-5
R9 ( net9 net3)  R=7.0E1
T10 ( net3 net3 vdd! vdd!)  pfet  L=4.77E-6 W=3.47E-6
T11 ( net2 net3 vdd! vdd!)  pfet  L=4.77E-6 W=3.47E-6
T12 (net9 net2 net2 0) pfet L=7.52E-6 W=4.16E-6
T13 (net5 net1 net1 0) nfet L=2.92E-6 W=2.12E-6
C14 (net1 net4) C=3.8E-13
T15 (net9 net4 net4 0) pfet L=3.06E-6 W=6.82E-6
R16 (net5 net2) R=5.1E3
R17 (net4 net5) R=7.2E6
R18 (net4 net7) R=0.5E4
T19 (net5 net1 net1 0) pfet L=2.64E-6 W=2.73E-6
R20 (0 net2) R=8.5E2
T21 (vdd! net7 net7 0) nfet L=7.27E-6 W=5.65E-6
R22 (net2 vdd!) R=9.7E1
T23 (net9 net1 net1 0) nfet L=7.03E-6 W=7.36E-6

