T1 (net23 vdd! vdd! 0) nfet L=2.46E-6 W=9.60E-6
R2 (net12 net21) R=2.5E3
R3 ( net5 net17)  R=0.9E3
T4 ( net17 net17 vdd! vdd!)  pfet  L=3.02E-6 W=0.85E-6
T5 ( net3 net17 vdd! vdd!)  pfet  L=3.02E-6 W=0.85E-6
R6 (net23 net4) R=1.6E2
T7 (vdd! net18 net18 0) nfet L=6.74E-6 W=9.83E-6
R8 ( net8 net24)  R=7.6E1
T9 ( net24 net13 0 0)  nfet  L=1.75E-6 W=3.59E-6
T10 ( vdd! net13 0 0)  nfet  L=1.75E-6 W=3.59E-6
T11 ( vdd! net24 net13 0)  nfet  L=1.75E-6 W=3.59E-6
C12 (net1 net4) C=5.3E-7
R13 (net20 net3) R=8.2E3
T14 (net15 net3 net3 0) nfet L=9.60E-6 W=3.47E-6
C15 (net9 net18) C=4.2E-6
C16 (vdd! 0) C=2.4E-9
T17 (net2 net6 net6 0) nfet L=3.39E-6 W=3.87E-6
T18 (net5 vdd! vdd! 0) nfet L=6.91E-6 W=9.78E-6
R19 (net3 net21) R=0.6E5
R20 (net2 net18) R=6.5E0
T21 (net10 net22 net22 0) nfet L=3.55E-6 W=2.50E-6
T22 (net3 net3 net3 0) nfet L=2.05E-6 W=9.62E-6
R23 (net20 net18) R=1.0E1
C24 (net2 net1) C=2.4E-13
R25 (net11 net20) R=3.1E4
R26 (0 net16) R=2.0E2

