R1 ( net3 net5)  R=4.9E2
T2 ( net5 net5 net13 0)  nfet  L=3.99E-6 W=3.08E-6
T3 ( net13 net22 0 0)  nfet  L=3.99E-6 W=3.08E-6
T4 ( net22 net22 0 0)  nfet  L=3.99E-6 W=3.08E-6
T5 ( net11 net5 net22 0)  nfet  L=3.99E-6 W=3.08E-6
T6 (net4 vdd! vdd! 0) pfet L=1.58E-6 W=7.02E-6
T7 ( net10 net10 0 0)  nfet  L=2.95E-6 W=0.50E-6
T8 ( net21 net10 0 0)  nfet  L=2.95E-6 W=0.50E-6
R9 ( net21 net6)  R=8.8E0
T10 (net8 net16 net16 0) pfet L=8.67E-6 W=3.70E-6
C11 (vdd! net12) C=1.9E-7
C12 (net11 net20) C=8.2E-6
R13 (net6 net17) R=1.7E5
T14 (net18 net14 net14 0) nfet L=3.05E-6 W=5.44E-6
C15 (0 net4) C=6.0E-13
R16 (net16 net7) R=5.5E6
T17 (vdd! 0 0 0) pfet L=1.20E-6 W=6.53E-6
T18 (net15 net8 net8 0) pfet L=9.71E-6 W=2.36E-6
C19 (net12 net11) C=6.3E-14
T20 (vdd! net20 net20 0) nfet L=8.27E-6 W=5.30E-6
T21 (net6 net20 net20 0) pfet L=8.54E-6 W=6.78E-6
R22 (net4 net15) R=7.7E4

