R1 ( net7 net3)  R=1.7E5
T2 ( net3 net10 vdd! vdd!)  pfet  L=3.20E-6 W=2.00E-6
T3 ( net13 net10 vdd! vdd!)  pfet  L=3.20E-6 W=2.00E-6
T4 ( net12 net3 net13 vdd!)  pfet  L=3.20E-6 W=2.00E-6
C5 (net7 net5) C=5.6E-11
R6 ( net8 net7)  R=4.0E1
T7 ( net7 net1 vdd! vdd!)  pfet  L=4.52E-6 W=5.27E-6
T8 ( net9 net1 vdd! vdd!)  pfet  L=4.52E-6 W=5.27E-6
T9 ( 0 net7 net1 vdd!)  pfet  L=4.52E-6 W=5.27E-6
C10 (net11 net6) C=3.1E-6

