R1 ( 0 net2)  R=7.4E0
T2 ( net2 net2 vdd! vdd!)  pfet  L=4.61E-6 W=1.66E-6
T3 ( net6 net2 vdd! vdd!)  pfet  L=4.61E-6 W=1.66E-6
C4 (net8 net4) C=6.1E-7
T5 ( net6 net6 vdd! vdd!)  pfet  L=5.26E-6 W=2.74E-6
T6 ( net14 net6 vdd! vdd!)  pfet  L=5.26E-6 W=2.74E-6
R7 ( net14 net12)  R=6.7E5
T8 (net9 net16 net16 0) pfet L=0.24E-6 W=3.54E-6
R9 (0 net15) R=5.5E2
T10 (net15 net5 net5 0) pfet L=5.96E-6 W=0.34E-6
C11 (net13 net9) C=4.7E-7
R12 (net10 net4) R=6.4E0
T13 (net1 net5 net5 0) nfet L=2.13E-6 W=1.72E-6
R14 (net3 net6) R=0.7E3

