T1 (net8 net9 net9 0) nfet L=3.43E-6 W=6.41E-6
R2 ( net5 net9)  R=1.1E0
T3 ( net9 net13 vdd! vdd!)  pfet  L=8.07E-6 W=4.94E-6
T4 ( 0 net13 vdd! vdd!)  pfet  L=8.07E-6 W=4.94E-6
T5 ( 0 net9 net13 vdd!)  pfet  L=8.07E-6 W=4.94E-6
T6 (0 net10 net10 0) pfet L=6.87E-6 W=9.22E-6
C7 (net7 net2) C=0.7E-8
R8 ( net1 net4)  R=8.2E5
T9 ( net4 net2 0 0)  nfet  L=9.18E-6 W=5.38E-6
T10 ( net11 net2 0 0)  nfet  L=9.18E-6 W=5.38E-6
T11 ( vdd! net4 net11 0)  nfet  L=9.18E-6 W=5.38E-6
T12 (net6 net12 net12 0) pfet L=3.94E-6 W=8.54E-6
C13 (vdd! net8) C=5.0E-8
R14 (net12 0) R=3.5E3
R15 (net7 net3) R=2.9E0

