R1 ( net4 net11)  R=3.8E6
T2 ( net11 net11 net3 0)  nfet  L=1.78E-6 W=6.34E-6
T3 ( net3 net1 0 0)  nfet  L=1.78E-6 W=6.34E-6
T4 ( net1 net1 0 0)  nfet  L=1.78E-6 W=6.34E-6
T5 ( 0 net11 net1 0)  nfet  L=1.78E-6 W=6.34E-6
T6 (net2 net10 net10 0) pfet L=0.16E-6 W=5.83E-6
T7 (net2 0 0 0) nfet L=7.23E-6 W=4.39E-6
C8 (net4 0) C=1.7E-7
T9 (net2 net4 net4 0) pfet L=3.25E-6 W=3.43E-6
T10 ( net10 net10 vdd! vdd!)  pfet  L=2.06E-6 W=4.26E-6
T11 ( net5 net10 vdd! vdd!)  pfet  L=2.06E-6 W=4.26E-6
R12 ( net5 net6)  R=7.1E1
T13 (net6 net6 net6 0) nfet L=0.83E-6 W=8.21E-6
T14 (net2 net10 net10 0) pfet L=0.16E-6 W=8.13E-6
R15 (net7 net8) R=3.0E3
T16 (net6 net6 net6 0) nfet L=6.34E-6 W=5.65E-6
T17 (net8 net4 net4 0) pfet L=1.71E-6 W=5.18E-6
R18 (net7 net2) R=0.3E2

