R1 ( net9 net5)  R=2.6E2
T2 ( net5 net12 vdd! vdd!)  pfet  L=2.19E-6 W=9.30E-6
T3 ( 0 net12 vdd! vdd!)  pfet  L=2.19E-6 W=9.30E-6
T4 ( 0 net5 net12 vdd!)  pfet  L=2.19E-6 W=9.30E-6
T5 (net2 vdd! vdd! 0) nfet L=5.87E-6 W=3.78E-6
T6 (net7 net1 net1 0) nfet L=5.63E-6 W=2.67E-6
T7 ( net1 net1 vdd! vdd!)  pfet  L=9.27E-6 W=4.05E-6
T8 ( net13 net1 vdd! vdd!)  pfet  L=9.27E-6 W=4.05E-6
R9 ( net13 net14)  R=1.1E6
T10 (net14 vdd! vdd! 0) nfet L=7.16E-6 W=4.06E-6
R11 (net14 0) R=9.8E4
C12 (vdd! net11) C=5.0E-14
T13 (net10 net14 net14 0) pfet L=1.75E-6 W=3.47E-6
C14 (net10 net7) C=5.2E-9
R15 (net2 net9) R=5.1E6
T16 (net7 net7 net7 0) pfet L=2.15E-6 W=3.51E-6
C17 (net8 net9) C=9.4E-6
T18 (net4 net10 net10 0) nfet L=1.79E-6 W=1.65E-6
T19 (net8 net6 net6 0) pfet L=6.62E-6 W=8.31E-6
R20 (net11 net6) R=7.5E3
R21 (net1 vdd!) R=8.0E4

