R1 ( net4 net8)  R=0.5E2
T2 ( net8 net8 net1 0)  nfet  L=7.62E-6 W=7.85E-6
T3 ( net1 net11 0 0)  nfet  L=7.62E-6 W=7.85E-6
T4 ( net11 net11 0 0)  nfet  L=7.62E-6 W=7.85E-6
T5 ( net2 net8 net11 0)  nfet  L=7.62E-6 W=7.85E-6
R6 (net7 net5) R=8.4E4
R7 (net5 net3) R=4.6E4
T8 ( net2 net2 vdd! vdd!)  pfet  L=6.73E-6 W=7.12E-6
T9 ( net2 net2 vdd! vdd!)  pfet  L=6.73E-6 W=7.12E-6
R10 ( net2 net4)  R=5.0E0
C11 (0 net9) C=1.2E-6
T12 (net6 net5 net5 0) pfet L=2.65E-6 W=8.70E-6
T13 (net4 net5 net5 0) nfet L=3.34E-6 W=9.90E-6
T14 (net10 net4 net4 0) nfet L=9.25E-6 W=7.58E-6
T15 (net4 net3 net3 0) nfet L=0.22E-6 W=6.83E-6
T16 (net10 net5 net5 0) pfet L=9.95E-6 W=9.91E-6
C17 (net9 net7) C=4.8E-8
T18 (net6 net3 net3 0) nfet L=2.08E-6 W=0.97E-6
T19 (net9 vdd! vdd! 0) nfet L=3.65E-6 W=8.05E-6
T20 (net3 net7 net7 0) nfet L=1.27E-6 W=9.97E-6
T21 (net3 net7 net7 0) nfet L=7.70E-6 W=5.85E-6

