R1 ( net14 net15)  R=4.9E6
T2 ( net15 net15 net6 vdd!)  pfet  L=0.62E-6 W=4.30E-6
T3 ( net6 net5 vdd! vdd!)  pfet  L=0.62E-6 W=4.30E-6
T4 ( net5 net5 vdd! vdd!)  pfet  L=0.62E-6 W=4.30E-6
T5 ( net8 net15 net5 vdd!)  pfet  L=0.62E-6 W=4.30E-6
T6 (net2 net1 net1 0) pfet L=8.19E-6 W=4.04E-6
T7 (net8 net4 net4 0) nfet L=6.84E-6 W=4.02E-6
C8 (net2 net1) C=0.9E-14
R9 ( net12 net17)  R=6.2E6
T10 ( net17 net13 0 0)  nfet  L=2.89E-6 W=8.48E-6
T11 ( net7 net13 0 0)  nfet  L=2.89E-6 W=8.48E-6
T12 ( vdd! net17 net13 0)  nfet  L=2.89E-6 W=8.48E-6
C13 (net3 net14) C=4.7E-8
T14 (net4 net8 net8 0) pfet L=8.20E-6 W=1.71E-6
T15 (net3 net14 net14 0) pfet L=1.52E-6 W=3.37E-6
T16 (vdd! net9 net9 0) pfet L=3.09E-6 W=5.86E-6
T17 (net16 net1 net1 0) pfet L=1.16E-6 W=2.90E-6
C18 (net4 net11) C=8.2E-11
R19 (net1 net4) R=3.8E3
R20 (net4 net1) R=8.9E1
T21 (net10 net9 net9 0) pfet L=2.75E-6 W=1.41E-6
T22 (net9 net1 net1 0) nfet L=1.25E-6 W=5.54E-6
T23 (net2 0 0 0) nfet L=5.94E-6 W=6.63E-6
R24 (net7 net11) R=0.4E5
T25 (net8 net4 net4 0) nfet L=9.93E-6 W=1.92E-6
R26 (net14 0) R=6.2E5
R27 (net7 net14) R=5.4E1

