R1 ( net9 net10)  R=6.2E0
T2 ( net10 net3 vdd! vdd!)  pfet  L=4.49E-6 W=3.55E-6
T3 ( net4 net3 vdd! vdd!)  pfet  L=4.49E-6 W=3.55E-6
T4 ( net8 net10 net4 vdd!)  pfet  L=4.49E-6 W=3.55E-6
R5 (net11 net9) R=0.8E0
C6 (vdd! net11) C=0.2E-11
T7 ( net6 net6 vdd! vdd!)  pfet  L=1.17E-6 W=1.73E-6
T8 ( net8 net6 vdd! vdd!)  pfet  L=1.17E-6 W=1.73E-6
R9 ( net8 net7)  R=6.3E3
T10 (net1 net2 net2 0) nfet L=5.12E-6 W=0.73E-6
R11 (net5 net11) R=6.0E3
T12 (vdd! net12 net12 0) nfet L=3.21E-6 W=2.12E-6
T13 (net9 net5 net5 0) pfet L=6.09E-6 W=1.75E-6
C14 (net1 vdd!) C=1.7E-8
R15 (net6 net1) R=7.9E0
T16 (net12 net5 net5 0) pfet L=6.85E-6 W=7.18E-6
T17 (net9 net2 net2 0) pfet L=3.36E-6 W=4.64E-6
R18 (net7 net12) R=1.4E3
T19 (net9 net5 net5 0) nfet L=7.15E-6 W=4.92E-6
T20 (vdd! net5 net5 0) pfet L=7.50E-6 W=2.25E-6
C21 (net1 0) C=5.5E-13
R22 (net12 net11) R=7.6E5
T23 (0 net1 net1 0) pfet L=7.19E-6 W=8.31E-6

