R1 (net6 net13) R=6.2E6
R2 ( net8 net13)  R=7.1E1
T3 ( net13 net13 0 0)  nfet  L=7.52E-6 W=1.71E-6
T4 ( net8 net13 0 0)  nfet  L=7.52E-6 W=1.71E-6
R5 (net14 net2) R=7.2E3
T6 ( net1 net1 0 0)  nfet  L=3.08E-6 W=0.52E-6
T7 ( net5 net1 0 0)  nfet  L=3.08E-6 W=0.52E-6
R8 ( net5 net2)  R=2.7E4
T9 (net6 net10 net10 0) nfet L=3.88E-6 W=5.34E-6
C10 (net14 net3) C=7.9E-8
R11 (0 net9) R=7.9E1
T12 (net3 net2 net2 0) nfet L=2.97E-6 W=8.09E-6
T13 (net6 net7 net7 0) pfet L=0.53E-6 W=0.98E-6
C14 (net10 vdd!) C=6.6E-10
T15 (net7 0 0 0) pfet L=3.14E-6 W=9.39E-6
T16 (net3 net8 net8 0) nfet L=8.15E-6 W=8.66E-6
C17 (net14 net1) C=9.8E-8
R18 (net9 net8) R=1.6E5
C19 (net8 net3) C=7.5E-14
R20 (net2 net9) R=2.8E1
T21 (0 net3 net3 0) nfet L=0.42E-6 W=7.19E-6
C22 (net14 net11) C=4.3E-6
R23 (net3 net11) R=3.1E3
T24 (net11 net3 net3 0) pfet L=2.18E-6 W=5.99E-6
C25 (net10 net7) C=7.3E-8

