T1 (net8 net4 net4 0) nfet L=1.25E-6 W=4.21E-6
T2 (net15 net1 net1 0) nfet L=0.59E-6 W=9.72E-6
R3 (net9 net3) R=0.7E0
R4 ( net2 net1)  R=4.2E2
T5 ( net1 net4 vdd! vdd!)  pfet  L=8.13E-6 W=6.28E-6
T6 ( net13 net4 vdd! vdd!)  pfet  L=8.13E-6 W=6.28E-6
T7 ( 0 net1 net4 vdd!)  pfet  L=8.13E-6 W=6.28E-6
R8 (net10 net8) R=8.2E5
R9 ( net16 net7)  R=2.1E2
T10 ( net7 net7 net12 vdd!)  pfet  L=1.84E-6 W=6.08E-6
T11 ( net12 net3 vdd! vdd!)  pfet  L=1.84E-6 W=6.08E-6
T12 ( net3 net3 vdd! vdd!)  pfet  L=1.84E-6 W=6.08E-6
T13 ( net8 net7 net3 vdd!)  pfet  L=1.84E-6 W=6.08E-6
T14 (0 net13 net13 0) nfet L=3.24E-6 W=3.12E-6
R15 (net16 net14) R=8.4E4
T16 (net9 vdd! vdd! 0) nfet L=0.91E-6 W=2.44E-6

