T1 (net18 net26 net26 0) nfet L=6.95E-6 W=7.76E-6
T2 (net14 net33 net33 0) nfet L=1.63E-6 W=8.54E-6
T3 (net8 net7 net7 0) pfet L=5.56E-6 W=6.27E-6
R4 ( net1 net17)  R=6.1E6
T5 ( net17 net9 vdd! vdd!)  pfet  L=1.15E-6 W=6.82E-6
T6 ( net21 net9 vdd! vdd!)  pfet  L=1.15E-6 W=6.82E-6
T7 ( net26 net17 net21 vdd!)  pfet  L=1.15E-6 W=6.82E-6
T8 (net18 net23 net23 0) pfet L=7.54E-6 W=9.82E-6
R9 ( net15 net1)  R=6.5E0
T10 ( net1 net1 vdd! vdd!)  pfet  L=2.50E-6 W=3.23E-6
T11 ( net11 net1 vdd! vdd!)  pfet  L=2.50E-6 W=3.23E-6
T12 (net4 vdd! vdd! 0) pfet L=2.17E-6 W=2.17E-6
R13 (net32 net2) R=8.0E3
C14 (net3 net28) C=6.5E-6
C15 (net20 vdd!) C=2.4E-6
T16 (net16 net22 net22 0) pfet L=2.23E-6 W=7.39E-6
T17 (net7 0 0 0) pfet L=3.47E-6 W=7.64E-6
C18 (net8 0) C=5.4E-14
R19 (net19 net16) R=4.6E6
R20 (net14 net11) R=9.8E6
T21 (net7 net3 net3 0) pfet L=1.95E-6 W=0.63E-6
T22 (net24 net16 net16 0) pfet L=2.65E-6 W=4.46E-6
T23 (net22 net3 net3 0) pfet L=7.01E-6 W=2.37E-6
R24 (net16 net31) R=3.0E1
T25 (net26 net28 net28 0) pfet L=4.42E-6 W=3.44E-6
T26 (net7 net3 net3 0) nfet L=5.55E-6 W=4.01E-6
C27 (net32 net7) C=5.1E-5
T28 (vdd! net15 net15 0) pfet L=8.90E-6 W=5.28E-6
R29 (net33 net23) R=9.6E3

