T1 (net4 net11 net11 0) nfet L=2.69E-6 W=0.19E-6
R2 ( net6 net4)  R=8.6E2
T3 ( net4 net5 0 0)  nfet  L=9.60E-6 W=7.09E-6
T4 ( net11 net5 0 0)  nfet  L=9.60E-6 W=7.09E-6
T5 ( net4 net4 net11 0)  nfet  L=9.60E-6 W=7.09E-6
C6 (net2 net3) C=9.4E-10
T7 (net1 net6 net6 0) pfet L=9.28E-6 W=3.94E-6
R8 ( net1 net6)  R=4.7E1
T9 ( net6 net6 vdd! vdd!)  pfet  L=5.50E-6 W=2.11E-6
T10 ( net8 net6 vdd! vdd!)  pfet  L=5.50E-6 W=2.11E-6
R11 (vdd! net9) R=9.0E4
C12 (net8 net3) C=8.4E-10
T13 (net7 net3 net3 0) pfet L=1.48E-6 W=3.17E-6
R14 (net3 net2) R=3.7E1
T15 (net3 net1 net1 0) pfet L=8.00E-6 W=8.56E-6
T16 (net10 net9 net9 0) nfet L=3.23E-6 W=1.63E-6
T17 (net7 net3 net3 0) nfet L=8.76E-6 W=3.84E-6
C18 (net3 net10) C=1.9E-9
R19 (net9 net10) R=5.2E0
T20 (net9 net9 net9 0) nfet L=5.19E-6 W=8.50E-6
C21 (net10 net7) C=3.5E-12
T22 (net2 net9 net9 0) pfet L=3.22E-6 W=6.39E-6
C23 (net7 net1) C=4.8E-13
R24 (net8 net7) R=0.7E1
T25 (vdd! net2 net2 0) nfet L=1.83E-6 W=1.31E-6
C26 (net3 net9) C=6.6E-10
R27 (net3 net2) R=4.6E3
R28 (net7 net3) R=9.9E1

