C1 (net43 net29) C=2.2E-11
T2 (net85 net60 net60 0) pfet L=3.05E-6 W=5.84E-6
R3 (net13 vdd!) R=6.4E1
T4 (net43 net92 net92 0) nfet L=6.67E-6 W=9.12E-6
T5 (net92 net80 net80 0) pfet L=7.27E-6 W=9.43E-6
R6 ( net35 net13)  R=4.9E5
T7 ( net13 net13 vdd! vdd!)  pfet  L=5.72E-6 W=8.83E-6
T8 ( net85 net13 vdd! vdd!)  pfet  L=5.72E-6 W=8.83E-6
T9 (net4 net78 net78 0) pfet L=9.56E-6 W=2.61E-6
R10 (net51 0) R=2.1E0
R11 (net81 net88) R=9.6E1
T12 (net57 net9 net9 0) pfet L=3.88E-6 W=3.38E-6
T13 (net67 net77 net77 0) nfet L=3.58E-6 W=0.93E-6
T14 (net80 net14 net14 0) pfet L=1.84E-6 W=6.05E-6
T15 (net80 net16 net16 0) pfet L=0.34E-6 W=7.01E-6
R16 ( net6 net70)  R=3.6E4
T17 ( net70 net72 0 0)  nfet  L=6.57E-6 W=5.99E-6
T18 ( net47 net72 0 0)  nfet  L=6.57E-6 W=5.99E-6
T19 ( net65 net70 net47 0)  nfet  L=6.57E-6 W=5.99E-6
R20 (net29 net55) R=7.8E2
R21 (net39 net34) R=7.8E0
C22 (net16 net24) C=3.3E-7
C23 (net79 net26) C=4.2E-9
T24 (net96 net33 net33 0) pfet L=8.91E-6 W=0.15E-6
T25 (net44 net96 net96 0) nfet L=5.15E-6 W=6.25E-6
R26 (net82 net94) R=5.7E3
T27 (net41 net22 net22 0) nfet L=9.86E-6 W=5.12E-6
T28 (vdd! net44 net44 0) nfet L=1.82E-6 W=7.21E-6
R29 (net14 net69) R=3.5E2
T30 (0 net17 net17 0) nfet L=6.26E-6 W=8.52E-6
R31 (net46 net42) R=8.7E1
T32 (net8 net59 net59 0) nfet L=4.39E-6 W=3.58E-6
R33 (net43 net39) R=4.5E1
T34 (net12 net78 net78 0) nfet L=1.15E-6 W=4.49E-6
C35 (net1 net10) C=8.7E-5
T36 (net53 net9 net9 0) nfet L=0.37E-6 W=1.32E-6
R37 (net12 net24) R=5.1E1
T38 (net101 net38 net38 0) pfet L=1.05E-6 W=4.39E-6
C39 (net41 net71) C=6.2E-14
T40 (net32 net5 net5 0) nfet L=1.71E-6 W=4.35E-6
T41 (net39 0 0 0) pfet L=2.99E-6 W=5.98E-6
T42 (net24 net50 net50 0) nfet L=4.49E-6 W=7.58E-6
C43 (net42 net30) C=1.1E-14
R44 (net63 net34) R=0.3E0
C45 (net91 net37) C=5.7E-14
R46 (net57 net71) R=2.5E1
T47 (net22 net23 net23 0) nfet L=3.44E-6 W=9.91E-6
T48 (net86 net14 net14 0) nfet L=2.13E-6 W=4.76E-6
R49 (net94 net28) R=7.9E3
T50 (net51 net32 net32 0) pfet L=2.76E-6 W=4.43E-6
R51 (net55 net77) R=1.3E6
C52 (net100 net48) C=5.6E-9
R53 (0 net32) R=1.6E5
T54 (net61 net24 net24 0) nfet L=0.52E-6 W=1.59E-6
R55 (net8 net2) R=9.5E4
C56 (net61 net99) C=3.3E-14
T57 (vdd! net45 net45 0) nfet L=2.33E-6 W=4.07E-6
T58 (net71 net40 net40 0) pfet L=3.90E-6 W=3.97E-6
T59 (net46 net64 net64 0) nfet L=1.52E-6 W=0.53E-6
T60 (net8 net36 net36 0) nfet L=7.48E-6 W=9.49E-6
T61 (net81 net66 net66 0) nfet L=6.35E-6 W=0.40E-6
T62 (net9 net101 net101 0) nfet L=8.29E-6 W=3.91E-6
T63 (net98 net46 net46 0) pfet L=7.46E-6 W=3.70E-6
T64 (net67 net61 net61 0) pfet L=4.99E-6 W=6.61E-6
T65 (net68 net19 net19 0) pfet L=8.53E-6 W=4.70E-6
T66 (net32 net28 net28 0) pfet L=4.44E-6 W=8.15E-6
T67 (net26 net46 net46 0) nfet L=0.65E-6 W=2.37E-6
T68 (net27 net20 net20 0) nfet L=0.36E-6 W=2.79E-6
T69 (net12 net87 net87 0) pfet L=3.69E-6 W=4.18E-6
T70 (net95 net56 net56 0) pfet L=0.42E-6 W=4.40E-6
C71 (net35 net97) C=0.3E-5
C72 (net96 net49) C=9.6E-14
T73 (net31 net77 net77 0) nfet L=1.21E-6 W=3.28E-6
T74 (vdd! 0 0 0) pfet L=6.80E-6 W=4.08E-6
C75 (net3 net33) C=4.8E-9
R76 (net71 net52) R=4.5E3
T77 (net34 net95 net95 0) pfet L=7.21E-6 W=5.46E-6
C78 (net17 net21) C=7.5E-9
T79 (net10 net27 net27 0) nfet L=6.72E-6 W=2.52E-6
T80 (net14 net59 net59 0) pfet L=3.75E-6 W=6.49E-6
T81 (vdd! net3 net3 0) pfet L=7.85E-6 W=0.46E-6
R82 (net48 net91) R=0.3E4
T83 (net58 vdd! vdd! 0) nfet L=3.28E-6 W=6.42E-6
C84 (net53 net74) C=1.8E-13
T85 (0 net30 net30 0) nfet L=3.32E-6 W=5.32E-6
T86 (net65 net100 net100 0) nfet L=9.26E-6 W=1.01E-6
T87 (net20 net46 net46 0) nfet L=0.19E-6 W=7.69E-6
R88 (net55 net11) R=1.7E1
T89 (net6 net44 net44 0) pfet L=3.99E-6 W=9.93E-6
C90 (net68 net89) C=9.4E-12
R91 (net74 net71) R=3.3E3
C92 (net9 net61) C=2.6E-5
C93 (net40 net39) C=4.5E-6
R94 (net15 net61) R=5.3E2
T95 (net21 net78 net78 0) pfet L=5.13E-6 W=3.07E-6
C96 (net33 net3) C=3.1E-8
R97 (net88 net76) R=6.3E3
R98 (0 vdd!) R=6.7E1
T99 (net4 0 0 0) nfet L=7.70E-6 W=0.26E-6
R100 (net48 net76) R=5.9E6
C101 (vdd! net82) C=2.8E-6
C102 (net15 net94) C=1.2E-7
T103 (0 vdd! vdd! 0) pfet L=8.01E-6 W=0.12E-6
R104 (net31 net85) R=9.7E6
T105 (net25 net24 net24 0) pfet L=5.18E-6 W=6.59E-6
C106 (net99 net98) C=3.8E-10
T107 (net76 net90 net90 0) pfet L=7.91E-6 W=8.98E-6
T108 (net83 net44 net44 0) nfet L=3.38E-6 W=7.38E-6
C109 (net82 net91) C=5.9E-11
T110 (net73 net64 net64 0) pfet L=0.61E-6 W=7.34E-6
T111 (net81 net45 net45 0) pfet L=3.57E-6 W=8.19E-6
R112 (net80 net45) R=7.4E0
C113 (net79 net83) C=9.1E-7
T114 (net38 net44 net44 0) pfet L=5.38E-6 W=5.85E-6
T115 (0 net95 net95 0) nfet L=5.74E-6 W=8.05E-6
T116 (net36 net66 net66 0) pfet L=7.52E-6 W=1.75E-6
C117 (0 net29) C=8.8E-13
T118 (net68 net67 net67 0) nfet L=0.90E-6 W=3.12E-6
T119 (net85 net84 net84 0) nfet L=5.78E-6 W=1.82E-6
T120 (net66 net88 net88 0) pfet L=6.68E-6 W=1.56E-6
T121 (net2 net23 net23 0) nfet L=2.28E-6 W=3.28E-6
T122 (net14 net69 net69 0) pfet L=3.34E-6 W=9.71E-6
C123 (net69 net14) C=2.5E-9
T124 (0 net16 net16 0) pfet L=0.47E-6 W=4.54E-6
C125 (net84 net95) C=9.6E-8
C126 (net78 net41) C=6.2E-9
R127 (vdd! 0) R=2.6E1
C128 (net60 net26) C=9.4E-7
T129 (net24 net46 net46 0) nfet L=7.08E-6 W=6.54E-6
T130 (net73 net96 net96 0) nfet L=2.10E-6 W=2.12E-6
C131 (net65 net4) C=3.2E-8
T132 (net15 net31 net31 0) nfet L=9.92E-6 W=1.35E-6
R133 (net11 net4) R=1.5E6
C134 (net73 net83) C=7.5E-7
T135 (net46 net35 net35 0) pfet L=8.82E-6 W=8.84E-6
C136 (net91 net56) C=3.3E-6
R137 (vdd! net45) R=0.1E3
C138 (vdd! net94) C=2.4E-14
T139 (net89 net3 net3 0) nfet L=7.43E-6 W=8.95E-6
C140 (0 net14) C=3.9E-10
T141 (net92 net4 net4 0) pfet L=9.89E-6 W=1.65E-6
C142 (net31 net45) C=5.8E-12
T143 (net60 net43 net43 0) pfet L=7.54E-6 W=9.44E-6
T144 (net19 net71 net71 0) pfet L=0.52E-6 W=3.74E-6
R145 (0 net16) R=6.8E0
T146 (net73 net55 net55 0) nfet L=9.91E-6 W=6.86E-6
T147 (net65 net2 net2 0) pfet L=6.64E-6 W=9.81E-6
R148 (net39 net54) R=2.7E4
T149 (net14 net38 net38 0) pfet L=6.08E-6 W=4.51E-6
T150 (net86 net63 net63 0) nfet L=3.28E-6 W=1.54E-6
R151 (net54 net73) R=1.7E4
R152 (net27 net60) R=8.5E1
R153 (net43 net77) R=8.4E5
T154 (net12 net100 net100 0) pfet L=6.49E-6 W=7.56E-6
C155 (net39 net37) C=9.5E-14
R156 (net75 net78) R=2.0E5
T157 (vdd! net34 net34 0) nfet L=2.02E-6 W=9.80E-6
R158 (net52 net79) R=7.8E5
T159 (net6 net29 net29 0) nfet L=2.93E-6 W=0.79E-6
C160 (net83 net4) C=5.9E-5
C161 (net52 net37) C=0.7E-10
T162 (net10 net78 net78 0) pfet L=5.95E-6 W=4.22E-6
C163 (vdd! net5) C=9.1E-9
T164 (net76 net40 net40 0) nfet L=6.21E-6 W=6.08E-6
T165 (net90 0 0 0) nfet L=5.93E-6 W=8.21E-6
R166 (net83 0) R=3.6E4
R167 (net34 vdd!) R=4.8E5
T168 (net60 vdd! vdd! 0) nfet L=9.97E-6 W=6.88E-6
C169 (net38 vdd!) C=8.9E-8
C170 (net11 net34) C=4.0E-6
R171 (net39 net56) R=5.7E5
T172 (net68 net1 net1 0) nfet L=4.53E-6 W=9.41E-6
R173 (vdd! net81) R=6.1E3
T174 (net55 net21 net21 0) pfet L=6.41E-6 W=2.27E-6
T175 (net51 vdd! vdd! 0) pfet L=7.74E-6 W=4.48E-6
C176 (net68 0) C=4.3E-8
T177 (0 net58 net58 0) nfet L=3.11E-6 W=4.33E-6
C178 (net6 net90) C=7.8E-13

